US06329392B1
Synthesis of 1-(t-butoxycarbonyl)-4-(1 H-benzoimidazole-2-carbonyl)-piperidine
Combine 4-(1 H-benzoimidazole-2-carbonyl)-piperidine hydroiodide salt (3.21 g, 6.63 mmol), 1 M aqueous sodium bicarbonate solution (15 mL), and t-butanol (30 mL). Add di-t-butyldicarbonate (1.65 g, 7.54 mmol). After 20 hours, concentrate the reaction mixture in vacuo to remove most of the t-butanol. Partition the reaction mixture between ethyl acetate and water. Separate the organic layer and extract with 1 M aqueous hydrochloric acid solution, 1 M aqueous sodium bicarbonate solution, and saturated aqueous sodium chloride solution. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give the title compound: Rf=0.30 (silica gel, 20% ethyl acetate/hexane).

reactant | 4-(1 H-benzoimidazole-2-carbonyl)-piperidine hydroiodide salt | 6.63 mmol, 3.21 g | I.N1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2
reactant | sodium bicarbonate | 1 M, 15 mL | C([O-])(O)=O.[Na+]
reactant | di-t-butyldicarbonate | 7.54 mmol, 1.65 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-butanol | 30 mL | C(C)(C)(C)O | C4H10O
product | 1-(t-butoxycarbonyl)-4-(1 H-benzoimidazole-2-carbonyl)-piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1)C=CC=C2 | C18H23N3O3
